US08729263B2
To a 500 mL round bottom flask containing (4-bromo-3-methoxyphenoxy)(tert-butyl)dimethylsilane (1.9 g, 6 mmol) and dioxane (60 mL), was added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (3.05 g, 12.00 mmol), potassium acetate (2.35 g, 24.00 mmol), dppf (0.333 g, 0.600 mmol) and PdCl2(dppf).CH2Cl2 adduct (0.49 g, 0.600 mmol). The reaction was evacuated and filled with N2 twice and then stirred at 90° C. overnight. The reaction was then diluted with MeOH, filtered through celite and washed with EtOAc. After concentration in vacuo, the residue was purified by silica gel chromatography using EtOAc/Heptane (0-15%) to provide white solid tert-butyl(3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)dimethylsilane (1.6 g, 4.17 mmol, 70% yield), MS (M+1)=365.2.

reactant | (4-bromo-3-methoxyphenoxy)(tert-butyl)dimethylsilane | 6 mmol, 1.9 g | BrC1=C(C=C(O[Si](C)(C)C(C)(C)C)C=C1)OC | C13H21BrO2Si
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 12.00 mmol, 3.05 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 24.00 mmol, 2.35 g | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 0.600 mmol, 0.49 g | C(Cl)Cl | CH2Cl2
catalyst | dppf | 0.600 mmol, 0.333 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | tert-butyl(3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)dimethylsilane | 4.17 mmol, 1.6 g, 70% yield | C(C)(C)(C)[Si](C)(C)OC1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)OC | C19H33BO4Si
